US08106070B2
1-[5-(2,2-dimethylbutyl)-1-methyl-1H-imidazol-2-yl]-2-[4-(5-fluoropyridin-2-yl)phenyl]-N-methylethanamine
Pd (10 wt % on activated carbon) (catalytic) was added to a degassed, ambient temperature solution of benzyl {1-[5-(2,2-dimethylbutyl)-1-methyl-1H-imidazol-2-yl]-2-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}methylcarbamate (11 mg, 0.02 mmol) in methanol (3 mL). After stirring at ambient temperature under an atmosphere of hydrogen for 4 h, the reaction mixture was filtered through cotton and concentrated in vacuo to afford the title compound. (M+H) found: 395.

reactant | benzyl {1-[5-(2,2-dimethylbutyl)-1-methyl-1H-imidazol-2-yl]-2-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}methylcarbamate | 0.02 mmol, 11 mg | CC(CC1=CN=C(N1C)C(CC1=CC=C(C=C1)C1=NC=C(C=C1)F)N(C(OCC1=CC=CC=C1)=O)C)(CC)C | C32H37FN4O2
solvent | methanol | 3 mL | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | 1-[5-(2,2-dimethylbutyl)-1-methyl-1H-imidazol-2-yl]-2-[4-(5-fluoropyridin-2-yl)phenyl]-N-methylethanamine | CC(CC1=CN=C(N1C)C(CC1=CC=C(C=C1)C1=NC=C(C=C1)F)NC)(CC)C | C24H31FN4
